US08236826B2
Production of 1-(4-methoxyphenyl)imidazolin-2-one
To a suspension of 1-(2-chloroethyl)-3-(4-methoxyphenyl)urea (7.0 g, 30.6 mmol) in t-butanol (120 mL) was added potassium t-butoxide (6.4 g, 57.0 mmol) under a nitrogen atmosphere. The resulting solution was stirred for 10 minutes, and then potassium t-butoxide (3.0 g, 26.7 mmol) was added. This solution was stirred for 10 minutes, and then potassium t-butoxide (4.3 g, 38.3 mmol) was added. The resulting solution was stirred for 16 hours at room temperature. The pH was adjusted to between 2 and 3 with 10% hydrochloric acid, and the solvent was evaporated under reduced pressure. To the residue were added water (100 mL) and ethyl acetate (100 mL), and stirred for 1 hour at room temperature. Resulting precipitates were filtered, washed with diethyl ether, and then dried under reduced pressure, to thereby yield 5.1 g of the title compound.

reactant | 1-(2-chloroethyl)-3-(4-methoxyphenyl)urea | 30.6 mmol, 7.0 g | ClCCNC(=O)NC1=CC=C(C=C1)OC | C10H13ClN2O2
reactant | potassium t-butoxide | 57.0 mmol, 6.4 g | CC(C)([O-])C.[K+]
reactant | potassium t-butoxide | 26.7 mmol, 3.0 g | CC(C)([O-])C.[K+]
reactant | potassium t-butoxide | 38.3 mmol, 4.3 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | t-butanol | 120 mL | C(C)(C)(C)O | C4H10O
product | 1-(4-methoxyphenyl)imidazolin-2-one | COC1=CC=C(C=C1)N1C(NCC1)=O | C10H12N2O2
